US09328111B2
Step 1: Methyl 5-oxo-2-(2,2,3,3-tetramethylcyclopropanecarbonyl)-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate
The product was prepared from methyl 5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate and 2,2,3,3-tetramethyl cyclopropanecarboxylic acid according to the same procedure described as in Example 16 (step 1)

reactant | methyl 5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | O=C1C2=C(NC=3CNCCC13)C=CC=C2C(=O)OC | C14H14N2O3
reactant | 2,2,3,3-tetramethyl cyclopropanecarboxylic acid | CC1(C(C1(C)C)C(=O)O)C | C8H14O2
product | Methyl 5-oxo-2-(2,2,3,3-tetramethylcyclopropanecarbonyl)-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | O=C1C2=C(NC=3CN(CCC13)C(=O)C1C(C1(C)C)(C)C)C=CC=C2C(=O)OC | C22H26N2O4
